US07906654B2
Synthesis of 1-[4-(1-aminoethyl)phenyl]cyclobutanecarbonitrile
4-(Cyanocyclobutyl)benzonitrile (335 mg, 1.84 mmol) is mixed with THF (10.0 mL) and cooled to −78° C. under N2 gas. MeLi (1.15 mL, 1.84 mmol, 1.60M in Et2O) is added, and the mixture is stirred at −78° C. for 15 minutes. A mixture of NaBH4 (70.0 mg, 1.84 mmol) in MeOH (10.0 mL) is added, and the solution is warmed to 0° C. for 1 hour. 1N HCl (40.0 mL) is added, and the solution is concentrated to dryness on the rotovaporator. The product is purified by HPLC: Gilson prep pumps, flow rate: 30 ml/min, column: Synergi Gemini (5 u) 21.2×50 mm (high pH), mobile phase: A=water (10 mM NH4CO3) B=MECN, (95.0 mg, 0.475 mmol, 26%). 1H NMR (400 MHz, DMSO-D6) δ ppm 1.23 (d, J=6.64 Hz, 3H) 1.90-2.06 (m, 1H) 2.16-2.35 (m, 1H) 2.52-2.64 (m, 2H) 2.64-2.78 (m, 2H) 4.00 (q, J=6.64 Hz, 1H) 7.36 (d, J=8.59 Hz, 2H) 7.42 (d, J=8.20 Hz, 2H).

reactant | 4-(Cyanocyclobutyl)benzonitrile | 1.84 mmol, 335 mg | C(#N)C1(CCC1)C1=CC=C(C#N)C=C1 | C12H10N2
reactant | MeLi | 1.84 mmol, 1.60M, 1.15 mL | [Li]C
reactant | NaBH4 | 1.84 mmol, 70.0 mg | [BH4-].[Na+]
reactant | HCl | 1N, 40.0 mL | Cl | ClH
solvent | MeOH | 10.0 mL | CO | CH4O
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
product | 1-[4-(1-aminoethyl)phenyl]cyclobutanecarbonitrile | NC(C)C1=CC=C(C=C1)C1(CCC1)C#N | C13H16N2
